US07932262B2
Step 1. Preparation of 2-(ethylthio)quinazolin-7-ol
To a solution of ethanthiol (30 ml) in DCM (50 ml) was added AlCl3 (6 eq). The reaction mixture was cooled to 0° C. and stirred for 10 min under N2 atmosphere. A solution of 2-chloro-7-methoxyquinazoline (1 eq) in DCM (20 ml) was added dropwise to it. The reaction mixture was warmed to room temperature and stirred for 2 h. The solvent was evaporated and residue was partitioned between EtOAc and satd. NaHCO3. The insoluble material was filtered, washed and dried to provide title product as a yellow solid (yield, 60%). The ethyl acetate layer was separated from basic layer, washed with brine and dried over sodium sulfate. Filtration, evaporation and drying under vacuum provide additional amount of product. (yield, 38%). ES/MS m/z 207.0 (MH+).

reactant | ethanthiol | 30 ml | C(C)S | C2H6S
reactant | AlCl3 | 6 eq | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2-chloro-7-methoxyquinazoline | 1 eq | ClC1=NC2=CC(=CC=C2C=N1)OC | C9H7ClN2O
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-(ethylthio)quinazolin-7-ol | 60% | C(C)SC1=NC2=CC(=CC=C2C=N1)O | C10H10N2OS
